US07906517B2
3-Bromo-4-methoxybenzoic acid (2.00 g) is dissolved in tetrahydrofuran (50 ml), and the mixture is cooled to −78° C., and thereto is added dropwise a 1.1M methyllithium in diethyl ether (7.7 ml). The mixture is stirred at −78° C. for 5 minutes, and thereto is added dropwise a 1.6M tert-butyllithium in n-pentane (13.2 ml), and the mixture is stirred at −78° C. for 15 minutes, and the mixture is allowed to warm to −45° C., and the mixture is stirred for 45 minutes, and then again cooled to −78° C. Thereto is added dropwise triisopropylborate, and the mixture is stirred at −78° C. for 15 minutes, and the mixture is allowed to warm to room temperature. The mixture is stirred at room temperature for 1.5 hours, and the mixture is concentrated under reduced pressure, and thereto are added water and hexane. The aqueous layer is adjusted to pH 4 by addition of a 6N-hydrochloric acid and a saturated aqueous sodium bicarbonate solution, and the mixture is extracted with ethyl acetate and methanol twice. The organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. To the resulting residue is added diethyl ether, and the resulting solids are collected by filtration to give 2-methoxy-5-carboxyphenylboronic acid (1.37 g) as a crude product.

reactant | 3-Bromo-4-methoxybenzoic acid | 2.00 g | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | methyllithium | 1.1M | C[Li]
reactant | tert-butyllithium | 1.6M | C(C)(C)(C)[Li]
reactant | triisopropylborate | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 7.7 ml | C(C)OCC | C4H10O
solvent | n-pentane | 13.2 ml | CCCCC | C5H12
product | 2-methoxy-5-carboxyphenylboronic acid | 1.37 g | COC1=C(C=C(C=C1)C(=O)O)B(O)O | C8H9BO5
